US07399759B2
2-(2-Phenyl-4-pyridyl)-4H-1,3-benzothiazine-4-one
2-Chloro-4-cyanopyridine (0.40 g, 2.9 mmol), phenylboric acid (0.53 g, 4.3 mmol) and potassium carbonate (1.0 g, 7.2 mmol) were dissolved in toluene-ethanol-water (4:1:1, 30 ml), and the mixture was deairated under reduced pressure for 15 minutes. Tetrakis(triphenylphosphine)palladium (0.17 g, 0.14 mmol) was added to the mixture under nitrogen atmosphere, and the mixture was refluxed for 21 hrs. The reaction mixture was combined with ethyl acetate-water. The organic layer was washed with saturated brine and dried over an hydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give crude 2-phenylisonicotinenitrile. Methyl thiosalicylate (1.10 g, 6.5 mmol) and 2-phenylisonicotinenitrile (0.50 g, 2.8 mmol) was dissolved in toluene (2.0 ml), and triethylamine (1.1 ml, 7.9 mmol) was added thereto. The reaction mixture was refluxed for 18 hrs, cooled at room temperature to give precipitated crystals, which were collected by filtration. The filtrate was concentrated, subjected to a silica gel (50 g) column chromatography and eluted with hexane-ethyl acetate (2:1, v/v) to give crystals, which were combined with the previously obtained crystals and recrystallized from ethanol to give the titled compound (0.34 g, 27%) as white crystals.

reactant | 2-Chloro-4-cyanopyridine | 2.9 mmol, 0.40 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | phenylboric acid | 4.3 mmol, 0.53 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl thiosalicylate | 6.5 mmol, 1.10 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 7.9 mmol, 1.1 ml | C(C)N(CC)CC | C6H15N
solvent | toluene-ethanol water | 30 ml | C=1(C(=CC=CC1)CCO)C.O
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium | 0.14 mmol, 0.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 2-(2-Phenyl-4-pyridyl)-4H-1,3-benzothiazine-4-one | 0.34 g, 27% | C1(=CC=CC=C1)C1=NC=CC(=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C19H12N2OS
